US07713994B2
4-[(3-Hydroxy-4-methoxy-benzylamino)-methylene]-6-methoxy-4H-isoquinoline-1,3-dione
A mixture of 5-aminomethyl-2-methoxy-phenol hydrochloride (145 mg, 0.50 mmole), 4 mL of N,N-dimethylformamide and triethylamine (75 □L, 0.54 mmole) is stirred for 15 minutes. Then (4E)-6-methoxy-4-methoxymethylene-4H-isoquinoline-1,3-dione (117 mg, 0.50 mmole) is added and the reaction mixture stirred for one hour. The reaction mixture is diluted with ether, filtered washed with water, washed with ether and dried to give an light beige solid, 161 mg, (91%), mp 240-2° C. dec; MS (ESI): m/z 355.2 (M−H).

reactant | 5-aminomethyl-2-methoxy-phenol hydrochloride | 0.50 mmole, 145 mg | Cl.NCC=1C=CC(=C(C1)O)OC
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.54 mmole | C(C)N(CC)CC | C6H15N
reactant | (4E)-6-methoxy-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.50 mmole, 117 mg | COC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C12H11NO4
solvent | ether | CCOCC | C4H10O
product | 4-[(3-Hydroxy-4-methoxy-benzylamino)-methylene]-6-methoxy-4H-isoquinoline-1,3-dione | OC=1C=C(CNC=C2C(NC(C3=CC=C(C=C23)OC)=O)=O)C=CC1OC | C19H18N2O5
